US08293768B2
Synthesis of 2-(3-butyl-2-oxoimidazolidin-1-yl)-4-methyl-N-(pyridin-3-ylmethyl)thiazole-5-carboxamide
Following the procedure as describe in Example 9, making variations as required to replace 2-(3-benzyl-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid with 2-(3-butyl-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid to react with 3-(aminomethyl)pyridine, the title compound was obtained as a white powder in 33% yield: mp 109-111° C. (ethyl acetate/hexanes); 1H NMR (300 MHz, CDCl3) δ 8.55-8.45 (m, 2H), 7.63 (d, J=7.8 Hz, 1H), 7.24-7.19 (m, 1H), 6.45 (br s, 1H), 4.52 (d, J=5.8 Hz, 2H), 4.05-4.00 (m, 2H), 3.55-3.49 (m, 2H), 3.31-3.18 (m, 2H), 2.55 (s, 3H), 1.53-1.20 (m, 4H), 0.88 (t, J=7.5 Hz, 3H); 13C NMR (75 MHz, CDCl3) δ 162.7, 157.5, 155.4, 153.6, 149.2, 148.8, 135.5, 134.0, 123.6, 116.6, 43.5, 42.1, 42.0, 41.3, 29.3, 19.8, 17.2, 13.6; MS (ES+) m/z 374.3 (M+1).

reactant | 2-(3-benzyl-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid | C(C1=CC=CC=C1)N1C(N(CC1)C=1SC(=C(N1)C)C(=O)O)=O | C15H15N3O3S
reactant | 2-(3-butyl-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid | C(CCC)N1C(N(CC1)C=1SC(=C(N1)C)C(=O)O)=O | C12H17N3O3S
reactant | 3-(aminomethyl)pyridine | NCC=1C=NC=CC1 | C6H8N2
product | 2-(3-butyl-2-oxoimidazolidin-1-yl)-4-methyl-N-(pyridin-3-ylmethyl)thiazole-5-carboxamide | 33% yield | C(CCC)N1C(N(CC1)C=1SC(=C(N1)C)C(=O)NCC=1C=NC=CC1)=O | C18H23N5O2S
